US05665718
2.04 g (5 mmol) of 7-bromo-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one were stirred at room temperature for 4 hours with 1.5 g (15 mmol) of dipropylamine and 15 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate there were obtained 1.61 g (68%) of 7-bromo-3-(5-dipropylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, which was converted into the hydrochloride of m.p. 135°-145°.

reactant | 7-bromo-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | 5 mmol, 2.04 g | BrC1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)CCl)C)=O | C15H11BrClN5O2
reactant | dipropylamine | 15 mmol, 1.5 g | C(CC)NCCC | C6H15N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 7-bromo-3-(5-dipropylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.61 g, 68% | BrC1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)CN(CCC)CCC)C)=O | C21H25BrN6O2
